data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
879,952,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][CH-:20][C:21]#[N:22].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:20]([C:21]#[N:22])[O:19][C:17]3([C:15]([NH:14][CH3:13])=[O:16])[CH3:18],water,298.15,11.147974708995063,-64.68363989910989
199,216,[CH3:1][O:2][C:3]#[C:4][F:5].[CH3:6][N+:7]([N-:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)=[C:15]([C:16]#[N:17])[C:18]#[N:19]>>[CH3:1][O:2][C:3]1=[C:4]([F:5])[N:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[N:7]([CH3:6])[C:15]1([C:16]#[N:17])[C:18]#[N:19],water,298.15,21.572272378899736,-45.81265501145049
1502,1657,[CH3:10][C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:14]([CH3:15])[C:11]3([CH3:10])[C:12]#[N:13],water,298.15,19.515064822085463,-42.48956210816775
1704,1885,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][CH-:20][C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[CH:20]([C:21]([CH3:22])=[O:23])[NH:19][C:18]2([C:16]([NH:15][CH3:14])=[O:17])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,33.726564054821694,-11.577798218264665
5175,5873,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:27](=[O:28])[O:29][CH3:30])[NH:15][C:16]1([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,31.48012163058789,-2.7261981674565603
2684,2982,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[C-:24]([N+:25]#[C:26][C:27]([CH3:28])=[O:29])[C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Br:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]([C:22]([O:21][CH3:20])=[O:23])([C:30](=[O:31])[O:32][CH3:33])[N:25]=[C:26]2[C:27]([CH3:28])=[O:29],water,298.15,19.24247322160845,-41.98585137790509
850,920,[CH3:9][O:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:11]([O:10][CH3:9])=[O:12])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:20]([CH3:21])[CH:22]3[C:23]#[N:24],water,298.15,18.53842392496913,-44.41979529455627
233,256,[CH3:9][O:10][C:11](=[O:12])[N-:13][O+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[N:13]([C:11]([O:10][CH3:9])=[O:12])[O:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,9.24784442175934,-55.27722254498436
270,294,[CH3:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[CH:17][C:18]#[N:19].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:14]([C:12]([CH3:11])=[O:13])[N:15]([CH3:16])[CH:17]3[C:18]#[N:19],water,298.15,10.777523799748623,-47.09279666444925
2465,2733,[CH3:19][O:20][C:21](=[O:22])[C:23]([CH3:24])=[NH+:25][O-:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[O:26][NH:25][C:23]2([C:21]([O:20][CH3:19])=[O:22])[CH3:24],water,298.15,20.75299498939249,-25.59016688865387
2893,3215,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C-:30]([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N+:37]([CH3:38])=[C:39]([C:40]#[N:41])[c:42]1[cH:43][cH:44][cH:45][cH:46][cH:47]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:39]([C:40]#[N:41])([c:42]1[cH:43][cH:44][cH:45][cH:46][cH:47]1)[N:37]([CH3:38])[C:30]2([C:28]([NH:27][CH3:26])=[O:29])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,29.06834450379952,-29.486673638378573
